US06599902B2
To a mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-piperazin-1-yl-ethyl)-amide (150 mg, 0.24 mmol) and N-Boc D-alanine (19 mg, 1 eq.) in DCM (5 mL) cooled in an ice bath was added diethyl cyanophosphonate (48 mg, 1.2 eq.) in DCM (0.5 mL) followed by a dropwise addition of TEA (0.04 mL, 1 eq.) in DCM (0.5 mL). The mixture was then stirred at rt for overnight. The reaction was diluted with DCM, washed with 10% potassium carbonate, water, dried and concentrated to give (2-{4-[2-({5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-amino)-ethyl]-piperazin-1-yl}-1,1-dimethyl-2-oxo-ethyl)-carbamic acid tert-butyl ester as a red wax.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-piperazin-1-yl-ethyl)-amide | 0.24 mmol, 150 mg | N1(CCNCC1)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C29H31Cl2N5O4S
reactant | N-Boc D-alanine | 19 mg, 1 eq. | C(=O)(OC(C)(C)C)N[C@H](C)C(=O)O | C8H15NO4
reactant | diethyl cyanophosphonate | 48 mg, 1.2 eq. | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (2-{4-[2-({5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-amino)-ethyl]-piperazin-1-yl}-1,1-dimethyl-2-oxo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(=O)N1CCN(CC1)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)(C)C)=O | C38H46Cl2N6O7S
